US07432073B2
Using A. acidoterrestris-proliferative acid sport drink (comprising 1% fruit juice, 0.18% citric acid, 9% isomerized sugar and 0.25% flavor) containing 100 ppm of vanillic acid added therein, two steps of preparations containing 103 and 105 spores/ml of A. acidoterrestris spores were prepared therein and cultured at 45° C. with shaking. As a control, a sample prepared by adding 300 ppm of sodium benzoate having the effect of inhibiting the growth of the same bacteria to the same solution was used. The resulting solution was sampled with a lapse of time and the amount of guaiacol produced was measured by the Peroxidase method.

reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | vanillic acid | C(C1=CC(OC)=C(O)C=C1)(=O)O | C8H8O4
reactant | sodium benzoate | C(C1=CC=CC=C1)(=O)[O-].[Na+]
product | guaiacol | C=1(C(O)=CC=CC1)OC | C7H8O2
